### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Matrix/PosDef): generalize and golf `PosSemidef.posDef_iff_isUnit`

### PR DESCRIPTION
**Pull request by themathqueen**
---

- [x] depends on: #43617

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -469,6 +496,23 @@ theorem mul_conjTranspose_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
   classical
   simpa using mul_mul_conjTranspose_same .one hA
 
+lemma mulVec_injective {M : Matrix n n R} (hM : M.PosDef) : Function.Injective M.mulVec := by
+  intro _ _ hxy; by_contra h
+  simpa [mulVec_sub, hxy] using hM.dotProduct_mulVec_pos (sub_ne_zero_of_ne h)
+
+lemma _root_.Matrix.posDef_iff_posSemidef_and_mulVec_injective [StarOrderedRing R']
+    [NoZeroDivisors R'] {A : Matrix n n R'} :
+    PosDef A ↔ A.PosSemidef ∧ Function.Injective A.mulVec := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:507]: drop this and only keep `PosSemidef.posDef_iff_mulVec_injective`?

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
